US08791107B2
PREPARATION x77: tert-butyl (1-((R)-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate
The title compound was prepared in a manner similar to PREPARATION x63 using (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 115 mg, 0.507 mmol), tert-butyl 4,4-dimethyl-1-oxopentan-3-ylcarbamate (116 mg, 0.507 mmol), titanium(IV) chloride in CH2Cl2 (1M, 0.761 mL, 0.761 mmol) and sodium triacetoxyhydroborate (237 mg, 1.116 mmol) in CH2Cl2 (5 mL) (53 mg, 24%). ESI-MS m/z [M+H]+ calc'd for C21H34ClN5O3, 440.24. found 440.4.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.507 mmol, 115 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | tert-butyl 4,4-dimethyl-1-oxopentan-3-ylcarbamate | 0.507 mmol, 116 mg | CC(C(CC=O)NC(OC(C)(C)C)=O)(C)C | C12H23NO3
solvent | sodium | [Na] | Na
solvent | CH2Cl2 | 5 mL, 53 mg | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | CH2Cl2 | 0.761 mmol, 1M, 0.761 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1-((R)-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate | ClC1=NC=2N3[C@H](CN(C2C=N1)CCC(C(C)(C)C)NC(OC(C)(C)C)=O)COCC3 | C21H34ClN5O3
